US04695581
5.1 g of 2,6-dimethyl-4-propionylphenol and 5.0 g of 4-methoxyphenylhydrazine hydrochloride were dispersed in 30 ml of isopropanol, and the dispersion was refluxed for 20 hours in a nitrogen stream. Water was added to the reaction mixture, and the precipitated crystals were collected by filtration. The crystals were dissolved in ethyl acetate, and washed with a 5% aqueous sodium hydroxide solution, water, 2N hydrochloric acid and water. The organic layer was dried, and the solvent was evaporated. Recrystallization of the resulting crude crystals from ethanol-hexane gave 5.8 g of 2-(4-hydroxy-3,5-dimethylphenyl)-5-methoxy-3-methylindole.

reactant | 2,6-dimethyl-4-propionylphenol | 5.1 g | CC1=C(C(=CC(=C1)C(CC)=O)C)O | C11H14O2
reactant | 4-methoxyphenylhydrazine hydrochloride | 5.0 g | Cl.COC1=CC=C(C=C1)NN
reactant | Water | O | H2O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 2-(4-hydroxy-3,5-dimethylphenyl)-5-methoxy-3-methylindole | 5.8 g | OC1=C(C=C(C=C1C)C=1NC2=CC=C(C=C2C1C)OC)C | C18H19NO2
